US06884868B1
A solution of piperazine (30.37 g), 4-fluorobenzoic acid ethyl ester (20 g) and potassium carbonate (65.75 g) in dimethylsulfoxide (100 ml) was stirred for 5.5 hours at 150° C. After cooling to the room temperature, water was added to the solution. The resulting precipitate was collected by filtration and dried to give ethyl 4-piperazinylbenzoate (18.48 g).

reactant | piperazine | 30.37 g | N1CCNCC1 | C4H10N2
reactant | 4-fluorobenzoic acid ethyl ester | 20 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | potassium carbonate | 65.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | ethyl 4-piperazinylbenzoate | 18.48 g | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
